US08008321B2
Methyl 5-({6-[(tert-butoxycarbonyl)(methyl)amino]-imidazo[1,5-a]pyridin-3-yl}carbonyl)-2-nitrobenzoate
540 mg (1.23 mmol) of methyl 5-({6-[(tertbutoxycarbonyl)amino]imidazo[1,5-a]pyridin-3-yl}carbonyl)-2-nitrobenzoate in 10 ml of dimethylformamide are added to 53.9 mg (1.35 mmol) of sodium hydride (60% dispersion in oil) in 2 ml of dimethylformamide, the mixture is stirred at ambient temperature for 30 minutes, then 84 μl (1.35 mmol) of methyl iodide are added and the mixture is left stirring at ambient temperature overnight. The mixture is acidified to pH=4 with an aqueous potassium hydrogensulfate solution and extracted with ethyl acetate. The organic phase is washed with a saturated aqueous sodium chloride solution, then dried over sodium sulfate and concentrated under reduced pressure. The product is purified by filtration through a bed of silica, elution being carried out with dichloromethane. 475 mg of an orange-colored powder are obtained. Melting point: 55° C.; 1H NMR (d6-DMSO): 1.46 (9H, s), 3.33 (3H, s), 3.92 (3H, s), 7.57 (1H, d), 7.98 (1H, s), 8.06 (1H, d), 8.25 (1H, d), 8.68 (1H, d), 8.76 (1H, s), 9.77 (1H, s)

reactant | methyl 5-({6-[(tertbutoxycarbonyl)amino]imidazo[1,5-a]pyridin-3-yl}carbonyl)-2-nitrobenzoate | 1.23 mmol, 540 mg | C(C)(C)(C)OC(=O)NC=1C=CC=2N(C1)C(=NC2)C(=O)C=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-] | C21H20N4O7
reactant | sodium hydride | 1.35 mmol, 53.9 mg | [H-].[Na+]
reactant | methyl iodide | 1.35 mmol, 84 μl | CI | CH3I
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | Methyl 5-({6-[(tert-butoxycarbonyl)(methyl)amino]-imidazo[1,5-a]pyridin-3-yl}carbonyl)-2-nitrobenzoate | 475 mg | C(C)(C)(C)OC(=O)N(C=1C=CC=2N(C1)C(=NC2)C(=O)C=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-])C | C22H22N4O7
